US07459263B2
Synthesis of 2-(1-naphthyl)ethyl methacrylate (CS-21)
A solution of 2-(1-naphthy)ethanol (30.0 g, 174 mmol), triethylamine (24.2 g, 239 mmol), 4-(dimethylamino)pyridine (1.1 g, 9.1 mmol), and dichloromethane (500 mL) was treated dropwise under nitrogen with methacryloyl chloride (18.9 g, 181 mmol), and then heated at refluxed for 4 h. The reaction mixture was cooled to ambient and diluted with diethyl ether. The solution was filtered and the filtrate was washed twice with water, once with NaHCO3, and once with brine. The solution was dried (Na2SO4) and concentrated to deposit a yellow oil. The product was purified by distillation at reduced pressure, collecting the fraction bp 120-125° C./0.08 mm to provide a colorless oil, mass: 36.0 g (86% theory). 1H (CDCl3): δ 2.00 (s, 3H), 3.50 (t, 2H), 4.55 (t, 2H), 5.60 (s, 1H), 6.15 (s, 1H), 7.50 (m, 4H), 7.8 (d, 1H), 7.9 (d, 1H), 8.2 (d, 1H).

reactant | 2-(1-naphthy)ethanol | 174 mmol, 30.0 g | C1(=CC=CC2=CC=CC=C12)CCO | C12H12O
reactant | triethylamine | 239 mmol, 24.2 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 500 mL | ClCCl | CH2Cl2
reactant | methacryloyl chloride | 181 mmol, 18.9 g | C(C(=C)C)(=O)Cl | C4H5ClO
catalyst | 4-(dimethylamino)pyridine | 9.1 mmol, 1.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(1-naphthyl)ethyl methacrylate | C(C(=C)C)(=O)OCCC1=CC=CC2=CC=CC=C12 | C16H16O2
